US05017212
6-Chloro-2,3-dihydro-imidazo[2,1-b]thiazole-5-sulfonamide-1,1-dioxide
To a suspension of 0.80 g of 6-chloro-2,3-dihydroimidazo[2,1-b]thiazole-5-sulfonamide-1-oxide in 10 ml of acetic acid is added 4 ml of 30% aqueous hydrogen peroxide solution followed by stirring for hour 100° C. After cooling, ice water is added to the reaction mixture to precipitate crystals. The crystals are collected by filtration, washed with water and dried to give 0.30 g of the title compound as colorless crystals. mp. 246°-247° C.

reactant | 6-chloro-2,3-dihydroimidazo[2,1-b]thiazole-5-sulfonamide-1-oxide | 0.80 g | ClC=1N=C2S(CCN2C1S(=O)(=O)N)=O | C5H6ClN3O3S2
reactant | hydrogen peroxide | 4 ml | OO | H2O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-Chloro-2,3-dihydro-imidazo[2,1-b]thiazole-5-sulfonamide-1,1-dioxide | 0.30 g | ClC=1N=C2S(CCN2C1S(=O)(=O)N)(=O)=O | C5H6ClN3O4S2
